US07163940B2
In a similar manner as described in Example 7 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-propyn-1-one (210 mg, 0.70 mmol), cyclopentylguanidine hydrochloride (291 mg, 2.1 mmol), and potassium carbonate (345 mg, 2.1 mmol) were heated at 120° C. for 1.5 hours in 1-methyl-2-pyrrolidinone (8 mL) to form 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (125 mg, 44%) as a white foam. 1H NMR (CDCl3) δ 8.42 (d, 1H), 8.09 (d, 1H), 7.67 (dd, 2H), 7.30 (m, 1H), 7.17 (t, 2H), 7.06 (d, 1H), 6.33 (d, 1H), 5.30 (d, 1H), 4.35 (m, 1H), 2.18–2.05 (m, 2H), 1.84–1.52 (m, 6H); 19F NMR (CDCl3) δ −112.78; MS m/z 408 (M+1).

reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-propyn-1-one | 0.70 mmol, 210 mg | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C2=CC=C(C=C2)F | C16H8ClFN2O
reactant | cyclopentylguanidine hydrochloride | 2.1 mmol, 291 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 2.1 mmol, 345 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 125 mg, 44% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
